US08470851B2
N-(4-(Methylsulfonyl)phenyl)-3-((trimethylsilyl)ethynyl)imidazo[1,2-a]pyridin-8-amine:
A mixture of 3-((trimethylsilyl)ethynyl)imidazo[1,2-a]pyridin-8-yl trifluoromethanesulfonate (0.329 g, 0.91 mmol), 0.186 (1.09 mmol) of 4-(methylsulfonyl)aniline, 0.083 g (0.091 mmol) of Pd2(dba)2, 0.087 g (0.181 mmol) of 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl, and 0.385 g (1.81 mmol) of potassium phosphate in 8 mL of DME was heated at 80° C. in a sealed tube overnight under an atmosphere of N2. Upon cooling to ambient temperature, the reaction mixture was concentrated and the crude product was purified by silica gel flash chromatography (triethylamine-treated silica gel; eluted with 0-80% EtOAc/hexanes) to provide 0.058 g of product: 384 m/z (M+H).

reactant | 3-((trimethylsilyl)ethynyl)imidazo[1,2-a]pyridin-8-yl trifluoromethanesulfonate | 0.91 mmol, 0.329 g | FC(S(=O)(=O)OC=1C=2N(C=CC1)C(=CN2)C#C[Si](C)(C)C)(F)F | C13H13F3N2O3SSi
reactant | 4-(methylsulfonyl)aniline | CS(=O)(=O)C1=CC=C(N)C=C1 | C7H9NO2S
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.181 mmol, 0.087 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | potassium phosphate | 1.81 mmol, 0.385 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DME | 8 mL | COCCOC | C4H10O2
product | N-(4-(Methylsulfonyl)phenyl)-3-((trimethylsilyl)ethynyl)imidazo[1,2-a]pyridin-8-amine | 0.058 g | CS(=O)(=O)C1=CC=C(C=C1)NC=1C=2N(C=CC1)C(=CN2)C#C[Si](C)(C)C | C19H21N3O2SSi
